US06638937B2
A. N-(3-Methoxy-5-methyl-2-pyrazinyl)-2-bromobenzenesulfonamide
2-amino-3-methoxy-5-methylpyrazine (1.50 g, 10.8 mmol; synthesized according to Bradbury, R. H., et. al. J. Med. Chem. 1997, 40, 996-1004) and 2-bromobenzenesulfonyl chloride (2.80 g, 11.0 mmol) were reacted according to the procedure of Example 25, Step A. 44A was a pink solid, 2.0 g (52%).

reactant | 2-amino-3-methoxy-5-methylpyrazine | 10.8 mmol, 1.50 g | NC1=NC=C(N=C1OC)C | C6H9N3O
reactant | 2-bromobenzenesulfonyl chloride | 11.0 mmol, 2.80 g | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | N-(3-Methoxy-5-methyl-2-pyrazinyl)-2-bromobenzenesulfonamide | COC=1C(=NC=C(N1)C)NS(=O)(=O)C1=C(C=CC=C1)Br | C12H12BrN3O3S
